US04119710
1-(4'-Amino-3'-fluoro-phenyl)-2-tert.butylamino-ethanol,
m.p. of the hydrochloride: 196°-197° C. (decomp.), was prepared from 4'-amino-2-tert.butylamino-3'-fluoro-acetophenone hydrochloride and sodium borohydride analogous to Example 1.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-2-tert.butylamino-3'-fluoro-acetophenone hydrochloride | Cl.NC1=C(C=C(C=C1)C(CNC(C)(C)C)=O)F
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-fluoro-phenyl)-2-tert.butylamino-ethanol | NC1=C(C=C(C=C1)C(CNC(C)(C)C)O)F | C12H19FN2O
